US07449486B2
Step B: Preparation of 5-(2,5-difluorophenyl)-2-((methoxymethoxy)methyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole:
To a solution of 2-(methoxymethoxy)-1-phenylethanone (0.60 g, 3.33 mmol) in EtOH/DCM (3:1, 12 mL) was added 2,5-difluorobenzothiohydrazide (0.63 g, 3.33 mmol). After stirring at room temperature for 16 hours, the mixture was concentrated under reduced pressure. The brown residue was chromatographed (9:1 hexanes/ethyl acetate) to provide the product as a yellow oil (0.73 g, 63%).

reactant | 2-(methoxymethoxy)-1-phenylethanone | 3.33 mmol, 0.60 g | COCOCC(=O)C1=CC=CC=C1 | C10H12O3
reactant | 2,5-difluorobenzothiohydrazide | 3.33 mmol, 0.63 g | FC1=C(C(NN)=S)C=C(C=C1)F | C7H6F2N2S
solvent | EtOH DCM | 12 mL | CCO.C(Cl)Cl
product | 5-(2,5-difluorophenyl)-2-((methoxymethoxy)methyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazole | 0.73 g, 63% | FC1=C(C=C(C=C1)F)C1=NNC(S1)(C1=CC=CC=C1)COCOC | C17H16F2N2O2S
